US04284641
Preparation of 1-(pent-2-enyl)imidazole
Pent-2-enyl bromide (18.5 g) was added dropwise to a stirred refluxing mixture of imidazole (10 g) and sodium bicarbonate (12.4 g) in methanol (50 ml). After addition was complete, the mixture was stirred under reflux for a further 24 hours. The mixture was filtered to remove unsoluble material and the filtrate evaporated to remove solvent. Residue taken in 2N-HCl (150 ml) and washed with ether (50 ml). The aqueous layer was basified with 10N NaOH and extracted with chloroform (3×50 ml). Combined extracts dried over anhydrous MgSO4 and chloroform removed under vacuum to leave crude product which was purified on silica gel column (EtOAc/MeOH 9:1 was used as eluent). Product fractions were collected; total weight 4.9 g. 1.0 g was distilled under vacuum; yield 1.08 g. B.p. 134° C./15 mmHg. Micro analysis: C8H12N2 requires C,70.59; H,8.82; N,20.59. Found: C,69.72, H,8.88; N,20.43.

reactant | Pent-2-enyl bromide | 18.5 g | C(C=CCC)Br | C5H9Br
reactant | imidazole | 10 g | N1C=NC=C1 | C3H4N2
reactant | sodium bicarbonate | 12.4 g | C([O-])(O)=O.[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-(pent-2-enyl)imidazole | C(C=CCC)N1C=NC=C1 | C8H12N2
